US04812164
using 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone with concentrated sulphuric acid at room temperature during 20 minutes there is obtained 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone. m.p. 143°-145° C.;

reactant | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC)F | C16H13ClF6N2O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC)F | C13H7ClF6N2O3
